US07884101B2
To a solution of 3-(4-Bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (0.96 g, 2.47 mmol) in 10 mL of DMA was added 2,4-difluoro phenyl isocyanate (0.42 g, 2.71 mmol), and the mixture was stirred at ambient temperature overnight The reaction mixture was diluted with DMSO and was purified by RP-HPLC. The fractions containing the product were pooled and evaporated to a small volume. The aqueous solution was neutralized with 1N NaOH to a pH of 9.0 and the product was extracted with ethyl acetate (2×, 50 mL). The organic layer was dried with sodium sulfate, filtered and evaporated to dryness to produce 1-[3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-3-(2,4-difluoro-phenyl)-urea as a colorless solid in 59% yield. LCMS m/z (%)=520 (M+H 79Br, 100), 522 (M+H 81Br, 98). 1H NMR (400 MHz. DMSO-d6) δ: 9.03 (bs, 1H), 8.49 (bs, 1H), 8.01-8.1 (m, 1H), 7.61 (s, 1H), 7.51 (dd, J=8.96 and 2.73 Hz, 1H), 7.35 (d, J=2.72 Hz, 1H), 7.27-7.33 (m, 1H), 7.15 (d, J=9.04 Hz, 1H), 7.04-7.09 (m, 1H), 4.01-4.11 (m, 2H), 3.67 (s, 3H), 2.51-2.73 (m, 2H), 2.34-2.38 (bs, 4H), 1.59-1.63 (bs, 4H).

reactant | 3-(4-Bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 2.47 mmol, 0.96 g | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CCCC1)N | C16H21BrN4O
reactant | 2,4-difluoro phenyl isocyanate | 2.71 mmol, 0.42 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-[3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-3-(2,4-difluoro-phenyl)-urea | 59% yield | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CCCC1)NC(=O)NC1=C(C=C(C=C1)F)F | C23H24BrF2N5O2
